Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain  
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ y/o man with
history of hypertrophic obstructive cardiomyopathy (septal wall
2.0 cm, inferolateral wall 1.8 cm, peak LVOT gradient 138 mm Hg,
peak resting gradient 95 mm Hg in ___ who presents with
intermittent exertional chest tightness and decreased exercise
tolerance.

The patient reports that he has had intermittent twinges in his
chest for ___ weeks and decreased exercise tolerance for 2
months. Patient was evaluated in the pain management clinic
earlier today during which she reported the above symptoms. He
tells me that the twinges in his chest have occurred mostly
during mild exercise, walking a few blocks. The twinge is in his
left side of his chest, lasts "milliseconds," does not radiate,
and is not associated with shortness of breath, nausea, 
vomiting,
diaphoresis or any other symptoms. He tells me that he has been
feeling fatigued for several months now with decreased exercise
tolerance, which he had attributed to his back discomfort 
related
to a fall, kyphoplasty, and recent car accident. The patient 
also
notes that he has had a dry cough over the past few months. He
was recently started on Tymlos for osteoporosis, and reports 
that
over the weekend he experienced a squeezing in his rib cage and
frequent urination. This symptoms resolved within a few hours 
and
have not recurred. His endocrinologist did not this that these
were likely to be related to the Tymlos. 

An EKG was performed in pain clinic that showed LVH with
worsening repolarization abnormalities. He was sent to the
emergency room for further evaluation.

At the time of cardiology evaluation in the emergency room, the
patient denied any chest pain, dyspnea, palpitations, nausea, or
diaphoresis at rest. He also denied any recent presyncope,
syncope or falls. He did report an episode of severe
lightheadedness over the last month.

In the ED initial vitals were: 97.8 76 136/74 18 97% RA  
Exam: Cardiovascular exam with JVP ~7 cm H2O, harsh
crescendo-decrescendo systolic murmur best heard over the 
without
radiation to the carotids, the intensity of the murmur decreases
in intensity with hand grip and increasing in intensity with
valsalva, lungs clear to auscultation, abdomen soft/NT/ND with
normoactive bowel sounds, no peripheral edema. 
EKG: NSR at 70 bpm, LAD, LVH with anterolateral repolarization
changes, increased from prior
Labs/studies notable for: H/H 13.2/38.4; BUN/Cr 34/1.2; trop-T
<0.01 x2
Consults:
- Cardiology: Overall patient's presentation is most consistent
with symptomatic hypertrophic obstructive cardiomyopathy. Less
likely coronary artery disease. Although plan by the ED was to
obtain a stress test, given significant LVOT obstruction at 
rest,
a stress test is likely not safe in this case. 
- Obtain anther set of troponin
- Obtain transthoracic echocardiogram to assess for progression
of wall thickness, LVOT obstruction and mitral regurgitation
- Given patient is symptomatic despite a significant dose of
verapamil, he may need to be considered for invasive treatment
(surgical myomectomy vs alcohol ablation) based on the findings
from the TTE
- If LVOT gradient is not significant on the TTE, consider 
stress
test to evaluate for coronary disease
- Continue home verapamil
Patient was given: Nothing
 
Vitals on transfer: 98.5 83 143/81 16 97% RA   

On the floor, the patient reports that he feels well and has no
complaints.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hyperlipidemia

2. CARDIAC HISTORY  
- Hypertrophic obstructive cardiomyopathy
- Mitral regurgitatation

3. OTHER PAST MEDICAL HISTORY  
- GERD 
- Gout
- Osteoporosis
- Glaucoma
 
 
Social History:
___
Family History:
- No known family history of early MI, arrhythmia,
cardiomyopathies, or sudden cardiac death.  
- Mother deceased at ___ from dementia, also with congestive
heart failure.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 99.0 137/74 80 18 96   
GENERAL: In NAD. Oriented x3.
HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink.
NECK: Supple. JVP of 5 cm.  
CARDIAC: RRR, loud crescendo-decrescendo systolic murmur
LUNGS: CTAB, no w/r/r 
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAMINATION:   
VS: 98.9PO, 111 / 69, 76, 20, 94 RA  
GENERAL: In NAD. Oriented x3.
HEENT: Sclera anicteric. EOMI. Conjunctiva were pink.
NECK: Supple. JVP not elevated.  
CARDIAC: RRR, loud crescendo-decrescendo systolic murmur
LUNGS: CTAB, no w/r/r 
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 11:45AM BLOOD WBC-8.2 RBC-4.21* Hgb-13.2* Hct-38.4* 
MCV-91 MCH-31.4 MCHC-34.4 RDW-13.2 RDWSD-44.3 Plt ___
___ 11:45AM BLOOD Neuts-58.7 ___ Monos-8.3 Eos-1.1 
Baso-0.4 Im ___ AbsNeut-4.82 AbsLymp-2.58 AbsMono-0.68 
AbsEos-0.09 AbsBaso-0.03
___ 11:45AM BLOOD Glucose-98 UreaN-34* Creat-1.2 Na-144 
K-4.8 Cl-105 HCO3-25 AnGap-14
___ 11:45AM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.9

RELEVANT LABS: 
==============
___ 11:45AM BLOOD cTropnT-<0.01
___ 03:45PM BLOOD cTropnT-<0.01

STUDIES: 
========
CHEST (PORTABLE AP) Study Date of ___ 
No acute cardiopulmonary abnormality.  Normal heart size. 
  
Transthoracic Echocardiogram Report ___ 
The left atrial volume index is moderately increased. There is 
no evidence for an atrial septal defect by 2D/color Doppler. 
There is SEVERE symmetric left ventricular hypertrophy with a 
normal cavity size. Global left
ventricular systolic function is hyperdynamic. Quantitative 
biplane left ventricular ejection fraction is 87 %.Left 
ventricular cardiac index is low normal (2.0-2.5L/min/m2) There 
is a SEVERE resting left ventricular
outflow tract gradient. Tissue Doppler suggests an increased 
left ventricular filling pressure (PCWP greater than 18mmHg). 
The right ventricular free wall is hypertrophied. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal with mildly dilated ascending aorta. 
The aortic arch diameter is normal. The aortic valve leaflets 
(3) are mildly thickened. There is no aortic valve stenosis. 
There is mild [1+] aortic regurgitation. The mitral leaflets are 
mildly thickened. There is valvular systolic
anterior motion (___). There is severe [4+] mitral 
regurgitation. There is mild pulmonic regurgitation. The 
tricuspid valve leaflets are mildly thickened. There is 
physiologic tricuspid regurgitation. The estimated
pulmonary artery systolic pressure is high normal. There is no 
pericardial effusion.

IMPRESSION: Good image quality. Severe symmetric left 
ventricular hypertrophy with hyperdynamic left ventricular 
function. Severe dynamic eft ventricular outflow tract 
obstruction. Severe mitral regurgitation
related to systolic anterior motion of the anterior leaflet of 
the mitral valve. Right ventricular hypertrophy with normal 
cavity size and systolic function.
Compared with the prior TTE (images not available for review) of 
___ , the severity of mitral regurgitation is now 
increased.

DISCHARGE LABS: 
================
___ 06:00AM BLOOD WBC-11.3* RBC-4.22* Hgb-13.3* Hct-38.3* 
MCV-91 MCH-31.5 MCHC-34.7 RDW-13.1 RDWSD-43.0 Plt ___
___ 06:00AM BLOOD Neuts-61.1 ___ Monos-6.7 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-6.93* AbsLymp-3.47 AbsMono-0.76 
AbsEos-0.08 AbsBaso-0.04
___ 06:00AM BLOOD Glucose-101* UreaN-27* Creat-1.2 Na-142 
K-4.6 Cl-105 HCO3-22 AnGap-15
___ 06:00AM BLOOD Mg-2.___ man with history of hypertrophic obstructive 
cardiomyopathy, HLD, who presented with intermittent left chest 
"twinging" and decreased exercise tolerance. Denies 
dizziness/syncope/presyncope. TTE showed worsening HCM and 
obsctruction with progressed MR since last echo.

==============
ACTIVE ISSUES:
============== 

# Chest pain: 
Patient presenting with intermittent left chest "twinge" both at 
rest and with exertion, as well as mildly increased dyspnea on 
exertion. EKG without changes and trops were negative. There was 
concern this could represent progression of his hypertrophic 
obstructive cardiomyopathy, as detailed below. He did not have 
any symptoms this admission and felt well. 

# Hypertrophic obstructive cardiomyopathy: 
# Mitral regurgitation: 
Progressed hypertrophy with worse obstruction and worse MR on 
most recent echo compared to ___ echo. He has known HCM with 
previously documented resting gradient of 95 mmHg and peak 
inducible gradient of 138 mmHg across the left ventricular 
outflow tract, with septal wall 2.0 cm and inferolateral wall 
1.8 cm, on his most recent TTE in ___. 

As above, there was concern that his presenting symptoms could 
have been related to progression of dynamic outflow tract 
obstruction. Repeat TTE was obtained this admission (___) 
and showed: "Severe symmetric left ventricular hypertrophy with 
hyperdynamic left ventricular function. Severe dynamic eft 
ventricular outflow tract obstruction. Severe mitral 
regurgitation related to systolic anterior motion of the 
anterior leaflet of the mitral valve. Right ventricular 
hypertrophy with normal cavity size and systolic function. 
Compared with the prior TTE (images not available for review) of 
___ , the severity of mitral regurgitation is now 
increased." 

Overall disease appeared to have progressed based on echo. He 
was monitored on telemetry without arrhythmias or events. He 
denied any recent palpitations, dizziness, syncope, or 
presyncope. His verapamil was increased to 240mg daily. Given 
that the patient had minimal to no symptoms, no intervention was 
performed and he was discharged with close outpatient cardiology 
follow up. The Structural Heart Team was notified of him this 
admission, but he will likely have to follow up with them as an 
outpatient (at the discretion of his primary cardiologist). 

===============
CHRONIC ISSUES:
===============

# Hyperlipidemia: Transitional issue to consider starting statin 
outpatient. 
# Chronic back pain: Continued home Tylenol and gabapentin PRN 
for now; held home diclofenac while inpatient 
# GERD: Continued home omeprazole 
# Gout: Continued home allopurinol
# Osteoporosis: Continued home Tymlos 
# Glaucoma: continued home Lumigan on discharge 

=====================
TRANSITIONAL ISSUES: 
=====================

NEW MEDS: none 
CHANGED MEDS: Verapamil SR increased 240 mg (from 120 mg) 
STOPPED MEDS: none

- Discharge weight: 82.6 kg/182.1 lb
- Discharge creatinine: 1.2 

[] Consider starting a statin for hyperlipidemia as an 
outpatient. 
[] Scheduled for follow up with cardiologist Dr. ___ to 
further discuss his HCM and MR; will need ongoing consideration 
of whether any interventions are indicated. 

# CODE STATUS: Full presumed
# CONTACT: ___ 
Relationship: partner 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO BID 
2. Gabapentin 300 mg PO QHS 
3. Allopurinol ___ mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO TID 
5. ALPRAZolam 1 mg PO QHS:PRN SLEEP 
6. Verapamil SR 120 mg PO Q24H 
7. Multivitamins 1 TAB PO DAILY 
8. Acyclovir 400 mg PO Q8H WHEN NEEDED 
9. Diclofenac Sodium ___ 75 mg PO BID 
10. abaloparatide 80 mcg (3,120 mcg/1.56 mL) subcutaneous DAILY 
11. bimatoprost 0.03 % ophthalmic (eye) DAILY 
12. Omeprazole 20 mg PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. turmeric root extract unknown  oral DAILY 

 
Discharge Medications:
1.  Verapamil SR 240 mg PO Q24H 
RX *verapamil 240 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  abaloparatide 80 mcg (3,120 mcg/1.56 mL) subcutaneous DAILY  

3.  Acetaminophen 1000 mg PO BID  
4.  Acyclovir 400 mg PO Q8H WHEN NEEDED  
5.  Allopurinol ___ mg PO DAILY  
6.  ALPRAZolam 1 mg PO QHS:PRN SLEEP  
7.  Aspirin 81 mg PO DAILY  
8.  bimatoprost 0.03 % ophthalmic (eye) DAILY  
9.  Diclofenac Sodium ___ 75 mg PO BID  
10.  Fish Oil (Omega 3) 1000 mg PO TID  
11.  Gabapentin 300 mg PO QHS  
12.  Multivitamins 1 TAB PO DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  turmeric root extract 10 units oral DAILY 
"10 units" entered as placeholder because system will not accept 
unknown dose.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
hypertrophic cardiomyopathy

SECONDARY DIAGNOSIS: 
hyperlipidemia, chronic back pain, GERD, osteoporosis, glaucoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- You had a "twinging" in your chest and some shortness of 
breath with exertion. There was concern that this could 
represent progression of your underlying heart condition 
(hypertrophic cardiomyopathy). 

WHAT HAPPENED IN THE HOSPITAL? 
- You had an ultrasound of your heart that showed hypertrophic 
cardiomyopathy with an associated leaky heart valve (mitral 
regurgitation). These problems had progressed from the last 
heart ultrasound you had several years ago. Your verapamil 
dosing was increased for this. Because you felt very well and 
your symptoms had basically resolved, we did not perform any 
procedures to fix the heart problem. You should follow up with 
your heart doctor as scheduled to continue discussing this. 

WHAT SHOULD YOU DO ON DISCHARGE? 
- Take your medications as prescribed, detailed in the following 
pages. 
- Go to your follow up appointments as scheduled. 

We wish you the best, 
Your ___ team
 
Followup Instructions:
___